US08686005B2
5,6-Diamino-2-(1-methylpiperidin-4-yl)isoindoline-1-one.
A mixture of 5-amino-2-(1-methyl-piperidin-4-yl)-6-nitro-isoindole-1,3-dione (10.0 g, 32.9 mmol), tin powder (39.7 g, 329 mmol), EtOH (300 mL) and conc. HCl (100 mL) was stirred at 75° C. for 4 h. After cooling to RT excess of Tin was removed by filtration, the filtrate was evaporated. The residue was dissolved in CH2Cl2-MeOH (1:1) mixture, basified with NH4OH. Precipitate formed was removed by filtration, SiO2 was added to the filtrate, stirred for 1 h, the solvent was evaporated, the residue was loaded onto SiO2 (500 g) column. Eluted with CH2Cl2-MeOH—NH4OH (gradient from 100:0:0 to 100:10:1 v/v). Yield 7.86 g (30.2 mmol, 92%) as beige solid. LCMS [M+H]+ 261.4.

reactant | 5-amino-2-(1-methyl-piperidin-4-yl)-6-nitro-isoindole-1,3-dione | 32.9 mmol, 10.0 g | NC=1C=C2C(N(C(C2=CC1[N+](=O)[O-])=O)C1CCN(CC1)C)=O | C14H16N4O4
reactant | tin | 329 mmol, 39.7 g | [Sn] | Sn
reactant | HCl | 100 mL | Cl | ClH
solvent | EtOH | 300 mL | CCO | C2H6O
product | 5,6-Diamino-2-(1-methylpiperidin-4-yl)isoindoline-1-one | NC=1C=C2CN(C(C2=CC1N)=O)C1CCN(CC1)C | C14H20N4O
